US07241805B2
Bupropion HCl was replaced with HBr and adjusted to obtain same amount Bupropion base.

reactant | Bupropion HCl | CC(C(=O)C=1C=CC=C(C1)Cl)NC(C)(C)C.Cl
reactant | HBr | Br | BrH
product | Bupropion | CC(C(=O)C=1C=CC=C(C1)Cl)NC(C)(C)C | C13H18ClNO
